US05709867
(a) Preparation of 4-nitrobenzyl acetate
7.6 g (0.05 mol) of 4-nitrobenzyl alcohol, 4.7 ml (0.05 mol) of acetic anhydride and 5.8 ml (0.1 mol) of acetic acid were introduced into a round-bottomed flask and the mixture was heated at reflux for eight hours. The reaction medium was poured into water, extracted with ethyl ether, the organic phase decanted off, dried over magnesium sulfate and evaporated. The residue was triturated in hexane, filtered and dried. 6.1 g (62%) of 4-nitrobenzyl acetate of melting point 77°-78° C. were recovered.

reactant | 4-nitrobenzyl alcohol | 0.05 mol, 7.6 g | [N+](=O)([O-])C1=CC=C(CO)C=C1 | C7H7NO3
reactant | acetic anhydride | 0.05 mol, 4.7 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | acetic acid | 0.1 mol, 5.8 ml | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-nitrobenzyl acetate | C(C)(=O)OCC1=CC=C(C=C1)[N+](=O)[O-] | C9H9NO4
